US07608603B2
A solution of (S)-1-[3-(2-Chloro-phenyl)-6-(2,4-difluoro-phenoxy)-1-(3-trimethylsilanyl-propoxy)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamino]-propan-2-ol (50 mg, 0.2846 mmol), Boc-(L)-Valine (68 mg, 0.313 mmol), 4-dimethylaminopyridine (7 mg, 0.057 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarodiimide (60 mg, 0.313 mmol) in 4 mL DMF was stirred at room temperature for three days, then heated to 120° C. for four hours. The reaction mixture was cooled and partitioned between water and ethyl acetate. The organic layer was separate, washed with 0.5N aqueous HCl, saturated aqueous sodium bicarbonate and brine, dried over MgSO4, filtered and concentrated under reduced pressure. The residue was chromatographed on silica (0% to 50% EtOAc in hexanes) to give 50 mg of (S)-2-tert-butoxycarbonylamino-3-methyl-butyric acid (S)-2-[3-(2-chloro-phenyl)-6-(2,4-difluoro-phenoxy)-1-methyl1H-pyrazolo[3,4-d]pyrimidin-4-ylamino]-1-methyl-ethyl ester

reactant | (S)-1-[3-(2-Chloro-phenyl)-6-(2,4-difluoro-phenoxy)-1-(3-trimethylsilanyl-propoxy)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamino]-propan-2-ol | 0.2846 mmol, 50 mg | ClC1=C(C=CC=C1)C1=NN(C2=NC(=NC(=C21)NC[C@H](C)O)OC2=C(C=C(C=C2)F)F)OCCC[Si](C)(C)C | C26H30ClF2N5O3Si
reactant | Boc-(L)-Valine | 0.313 mmol, 68 mg | C(=O)(OC(C)(C)C)N[C@@H](C(C)C)C(=O)O | C10H19NO4
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
catalyst | 4-dimethylaminopyridine | 0.057 mmol, 7 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | (S)-2-tert-butoxycarbonylamino-3-methyl-butyric acid (S)-2-[3-(2-chloro-phenyl)-6-(2,4-difluoro-phenoxy)-1-methyl1H-pyrazolo[3,4-d]pyrimidin-4-ylamino]-1-methyl-ethyl ester | 50 mg | ClC1=C(C=CC=C1)C1=NN(C2=NC(=NC(=C21)NC[C@H](C)OC([C@H](C(C)C)NC(=O)OC(C)(C)C)=O)OC2=C(C=C(C=C2)F)F)C | C31H35ClF2N6O5
